US07423037B2
4-Benzyl-morpholine-2-carboxylic acid hydrochloride (91)
A 500 mL reactor under N2 is successively loaded with toluene (36.72 mL) and 2-chloroacrylonitrile (10.7 g, 122.23 mmol) at room temperature. Then, N-benzyl ethanolamine (18.36 g, 121.14 mmol) is added over 5 min and the reaction mixture is post-agitated at room temperature for 16 h. Then, the mixture is diluted with toluene (110.16 mL), cooled to −5° C. and 2M potassium tert-butoxide solution in THF (121.14 mmol) is slowly added over 30 min, maintaining the temperature at −5° C. to 0° C. The mixture is post-agitated at about −5° C. to 0° C. for 1 h, then quenched by adding water (45.9 mL). The aqueous layer is separated and the toluene layer is washed with water (45.9 mL) and then the mixture is allowed to warm to room temperature. The organic layer is then concentrated under reduced pressure at 40° C. Then, the mixture is diluted with toluene (100 mL) and extracted with 6N HClaq (162 mL). This aqueous layer is heated up to the reflux for 1 h 30, then the mixture is allowed to stir at room temperature overnight. After crystallization of 91, the solid is filtered, rinsed with 6N HClaq (40 mL) and dried under reduce pressure at 40° C. (19 g, yield=61%).

reactant | 2-chloroacrylonitrile | 122.23 mmol, 10.7 g | ClC(C#N)=C | C3H2ClN
reactant | N-benzyl ethanolamine | 121.14 mmol, 18.36 g | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | potassium tert-butoxide | 2M | CC(C)([O-])C.[K+]
reactant | THF | 121.14 mmol | C1CCOC1 | C4H8O
solvent | toluene | 110.16 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 36.72 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Benzyl-morpholine-2-carboxylic acid hydrochloride | yield=61% | Cl.C(C1=CC=CC=C1)N1CC(OCC1)C(=O)O | InChI=1S/C12H15NO3.ClH/c14-12(15)11-9-13(6-7-16-11)8-10-4-2-1-3-5-10;/h1-5,11H,6-9H2,(H,14,15);1H
